US04571396
1-Cyclopropyl-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylic acid
To a solution of 2 ml of 70% nitric acid in 10 ml of 98% sulfuric acid was added in portions 1.0 g (3.0 mmole) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid, keeping the temperature between 25°-30° C. The resulting solution was stirred at room temperature for 18 hours and poured onto 40 g of ice. The mixture was stirred at room temperature for 24 hours, concentrated in vacuo, the pH adjusted to 12 with aqueous sodium hydroxide, and filtered through a fiber glass pad. The filtrate was acidified to pH 3.5 with 6.0 M hydrochloric acid, the resulting precipitate removed by filtration, washed with water then ether and dried in vacuo to give 0.23 g of the title compound, mp 325°-327° C.

reactant | nitric acid | 2 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid | 3.0 mmole, 1.0 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)O | C16H17FN4O3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.23 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)O | C12H9FN2O4
